US06630495B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-5-bromofuramide
To a mixture of 5-bromofuroic acid (0.19 g) and carbonyl diimidazole (CDI) in dichloromethane was added (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine and the mixture was stirred at room temperature overnight. The mixture was washed with 2M hydrochloric acid, then saturated sodium bicarbonate, dried (MgSO4) and evaporated to give the title product, m.p. 77.8° C.

reactant | 5-bromofuroic acid | 0.19 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine | ClC=1C(=NC=C(C1)C(F)(F)F)CN | C7H6ClF3N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-5-bromofuramide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(=O)C=1OC(=CC1)Br | C12H7BrClF3N2O2
